US05185331
N-(4-Chlorophenyl)-N'-(6-phenyl-4H-[1,2,4]triazolo-[4,3-a][1,4]benzodiazepin-4-yl)urea
6-Phenyl-4H-[1,2,4]triazolo-[4,3-a][1,4]benzodiazepin-4-ylamine formate salt (200 mg, 0.38 mmole) was combined with 4-chlorophenylisocyanate (57 mg, 0.37 mmole) and triethylamine (57 μL) in 10 mL of dry tetrahydrofuran. The mixture was allowed to stand at room temperature overnight. The analytically pure product, which crystallized from solution was collected and dried: m.p. 294°-296° C.

reactant | 6-Phenyl-4H-[1,2,4]triazolo-[4,3-a][1,4]benzodiazepin-4-ylamine formate salt | 0.38 mmole, 200 mg | C(=O)O.C1(=CC=CC=C1)C1=NC(C=2N(C3=C1C=CC=C3)C=NN2)N
reactant | 4-chlorophenylisocyanate | 0.37 mmole, 57 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | triethylamine | 57 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-(4-Chlorophenyl)-N'-(6-phenyl-4H-[1,2,4]triazolo-[4,3-a][1,4]benzodiazepin-4-yl)urea | ClC1=CC=C(C=C1)NC(=O)NC1C=2N(C3=C(C(=N1)C1=CC=CC=C1)C=CC=C3)C=NN2 | C23H17ClN6O
